US06664260B2
Tetrazolo[1,5-a]quinolin-5-ol (63.25 g, 0.34 mol) was added to glacial acetic acid (630 ml) to form a thick off white suspension. The mixture was vigorously stirred while nitric acid (23.6 ml, 0.37 mol, 70% solution) was slowly added. The reaction was then heated from 25 to 80° C. over a period of 15 minutes. A yellow precipitate formed and the reaction was maintained at 80° C. for 5 minutes. The mixture was slowly cooled to 0° C. The solid was collected by filtration and then dried in vacuo to yield 60.0 g of 4-nitro-tetrazolo[1,5-a]quinolin-5-ol as a yellow solid.

reactant | Tetrazolo[1,5-a]quinolin-5-ol | 0.34 mol, 63.25 g | N1=NN=C2N1C1=CC=CC=C1C(=C2)O | C9H6N4O
reactant | nitric acid | 0.37 mol, 23.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 630 ml | C(C)(=O)O | C2H4O2
product | 4-nitro-tetrazolo[1,5-a]quinolin-5-ol | 60.0 g | [N+](=O)([O-])C=1C=2N(C3=CC=CC=C3C1O)N=NN2 | C9H5N5O3
